US04921845
11.6 g of solid sodium hydrogen carbonate and 15.8 g of m-chloroperbenzoic acid were added consecutively scoopwise at -35° C. to a cooled solution of 22 g of 17β-hydroxy-7β-methyloestr-5(10),9(11)-dien-3-one-3-ethyleneacetal in 350 ml of methylene dichloride. After being stirred for 1 hour at -35° C., the reaction mixture was diluted with a saturated sodium hydrogen carbonate solution followed by extraction with methylene dichloride. The organic layer was washed with 0.2M sulphite solution and with water until neutral, dried on sodium sulphate, filtered and evaporated to dryness in vacuo. After purification by chromatography through silica gel, 8.8 g of 5α,10α-epoxy-17β-hydroxy-7β-methyloestr-9(11)-en-3-one-3-ethyleneacetal were obtained.

reactant | m-chloroperbenzoic acid | 15.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 17β-hydroxy-7β-methyloestr-5(10),9(11)-dien-3-one-3-ethyleneacetal | 22 g | C1COC2(CC=3C[C@@H]([C@H]4[C@@H]5CC[C@@H]([C@@]5(C)CC=C4C3CC2)O)C)O1 | C21H30O3
solvent | methylene dichloride | 350 ml | C(Cl)Cl | CH2Cl2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 5α,10α-epoxy-17β-hydroxy-7β-methyloestr-9(11)-en-3-one-3-ethyleneacetal | 8.8 g | C1COC2(C[C@]34C[C@@H]([C@H]5[C@@H]6CC[C@@H]([C@@]6(C)CC=C5[C@@]3(CC2)O4)O)C)O1 | C21H30O4
